US08314092B2
Degas, by purging with nitrogen for 10 minutes, a solution of methyl 4-bromo-1H-pyrrole-2-carboxylate (2.0 g, 9.8 mmoles), triethenylboroxin pyridine (1.3 equiv; 3.1 g, 12.7 mmoles), and potassium carbonate (3 equiv; 4.1 g, 29.4 mmoles) in a mixture of 1,4-dioxane (20 mL) and water (10 mL). Add tris(dibenzylideneacetonyl)bis-palladium (Pd2(dba)3) (0.01 equiv; 0.0925 g, 98.0 μmoles) and 1,1′-bis(di-tert-butylphosphino)ferrocene (dtbpf) (0.03 equiv; 0.0853 g, 294.1 μmoles) and heat at 95° C. for 3 h. Cool to room temperature then partition between water (50 mL) and a 1:1 mixture of hexanes/diethyl ether (100 mL). The organic layer is washed with water (2×50 mL) then brine. Dry over Na2SO4, filter and evaporate to give methyl 4-ethenyl-1H-pyrrole-2-carboxylate as a straw colored oil (1.5 g). Use without further purification. 1H-NMR (CDCl3), δ: 8.90 (1H, br. s), 7.02 (1H, m), 6.95 (1H, m), 6.56 (1H, q) 5.48 (1H, dd), 5.05 (1H, dd), 3.86 (3H, s).

reactant | methyl 4-bromo-1H-pyrrole-2-carboxylate | 9.8 mmoles, 2.0 g | BrC=1C=C(NC1)C(=O)OC | C6H6BrNO2
reactant | triethenylboroxin pyridine | 12.7 mmoles, 3.1 g, 1.3 equiv | N1=CC=CC=C1.C(=C)B1OB(OB(O1)C=C)C=C
reactant | potassium carbonate | 29.4 mmoles, 4.1 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | tris(dibenzylideneacetonyl)bis-palladium | 98.0 μmoles, 0.0925 g, 0.01 equiv | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene | 294.1 μmoles, 0.0853 g, 0.03 equiv | C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | methyl 4-ethenyl-1H-pyrrole-2-carboxylate | 1.5 g | C(=C)C=1C=C(NC1)C(=O)OC | C8H9NO2
